US05882819
Synthesis of 2,2'-dithiobis (5-methyl-1,3,4-thiadiazole)
Within a flask having a capacity of 1000 ml, 2-mercapto-5-methyl-1,3,4-thiadiazole of 150 mmol is solved in methanol of 450 ml. Into the solution thus prepared, 34.5% hydrogen peroxide of 39 ml is dropped slowly. The solution was stirred for one hour at room temperature. Thereafter, by decompression and heating, precipitate was created. The solution was filtered and washed. By the subsequent drying in a decompressing atmosphere, crude crystal was obtained. By recrystallization using ethanol, 5,5'-dithiobis (5-methyl-1,3,4-thiadiazole) (hereinafter referred to as "active material ε") was obtained.

reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | SC=1SC(=NN1)C | C3H4N2S2
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | CO | CH4O
product | 2,2'-dithiobis (5-methyl-1,3,4-thiadiazole) | CC1=NN=C(S1)SSC=1SC(=NN1)C | C6H6N4S4
